US05221676
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(4-pyridinyl)-1-pyrrolidinyl]-1,8-naphthyridine-3-carboxylic acid
Starting from 7-chloro-1-cyclopropyl-6-fluoro-1,4 dihydro-4-oxo 1,8-naphthyridine 3-carboxylic acid (0.85 g, 3.0 mmol) and 4-(3-pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (0.79 g, 67%), mp 223°-225° C.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4 dihydro-4-oxo 1,8-naphthyridine 3-carboxylic acid | 3.0 mmol, 0.85 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 4-(3-pyrrolidinyl)pyridine | N1CC(CC1)C1=CC=NC=C1 | C9H12N2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(4-pyridinyl)-1-pyrrolidinyl]-1,8-naphthyridine-3-carboxylic acid | 0.79 g, 67% | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)C1=CC=NC=C1)F)=O)C(=O)O | C21H19FN4O3
